US03992452
2-methoxycyclohexanone was prepared by dissolving 30 gm. 2-chlorocyclohexanone in 160 ml. methanol and heating the solution in a sealed vessel at 125° C. for approximately four hours. The reactionmass was then cooled and the methanol removed by distillation at reduced pressure. After most of the methanol was distilled off, the residue containing the 2-methoxycyclohexanone was diluted with methylene chloride and extracted with an aqueous solution of sodium hydroxide. After distillation a yield of 90-95% 2-methoxycyclohexanone was obtained.

reactant | 2-chlorocyclohexanone | ClC1C(CCCC1)=O | C6H9ClO
reactant | methanol | CO | CH4O
product | 2-methoxycyclohexanone | yield of 90-95% | COC1C(CCCC1)=O | C7H12O2
